US06977256B2
To a suspension of L-cysteine (100 g) in ethanol (850 mL) under nitrogen was added over 40 min a solution of sodium hydroxide (2.0 eq., 64.6 g) in ethanol (650 mL) (the sodium hydroxide solution was maintained below 40° C. during its preparation, 3 hours for complete dissolution). After the addition, cyclopropylmethyl bromide (1.1 eq., 122.5 g) was added over 20 minutes while maintaining the temperature at 25-30° C. with a cold bath. The resulting white slurry was stirred for another 18 hours and then quenched by adding 2N HCl (0.73 eq., 300 mL) over 20 minutes. The thick suspension was concentrated (100 mbars, 52° C. bath) to about 400 mL (1.5L ethanol/water distilled) and then water (750 mL) was added. The pH (9.6) was adjusted to pH 6.5 with 2N HCl and the mixture was stirred at 4° C. for 2 hours and then filtered. The cake was washed five times with water (100 mL) and then dried in vacuum to afford S-cyclopropylmethyl-L-cysteine (128.2 g, 88.6% yield).

reactant | L-cysteine | 100 g | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | sodium hydroxide | 64.6 g, 2.0 eq. | [OH-].[Na+]
reactant | cyclopropylmethyl bromide | 122.5 g, 1.1 eq. | C1(CC1)CBr | C4H7Br
reactant | HCl | 2N, 300 mL, 0.73 eq. | Cl | ClH
solvent | ethanol | 850 mL | C(C)O | C2H6O
solvent | ethanol | 650 mL | C(C)O | C2H6O
product | S-cyclopropylmethyl-L-cysteine | 128.2 g, 88.6% yield | C1(CC1)CSC[C@H](N)C(=O)O | C7H13NO2S
